US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-(1-hydroxycyclopentyl)isoxazole-3-carboxamide was prepared using the method of Example 34(d) starting from (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (200 mg, 0.69 mmol) and 5-(1-hydroxycyclopentyl)isoxazole-3-carboxylic acid (173 mg, 0.878 mmol). The product purified twice by Flash-chromatography (normal phase and reverse phase). Yield 23.2%. 1H-NMR (400 MHz; MeOD): δ 1.26 (d, 3H), 1.75-2.12 (m, 8H), 4.28-4.44 (m, 2H), 4.52-4.64 (m, 1H), 6.51 (s, 1H), 6.77 (d, 1H), 7.70 (d, 1H), 7.77 (dd, 1H), 7.88 (dd, 1H), 8.09 (dd, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.69 mmol, 200 mg | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
reactant | 5-(1-hydroxycyclopentyl)isoxazole-3-carboxylic acid | 0.878 mmol, 173 mg | OC1(CCCC1)C1=CC(=NO1)C(=O)O | C9H11NO4
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-(1-hydroxycyclopentyl)isoxazole-3-carboxamide | Yield 23.2% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C1=NOC(=C1)C1(CCCC1)O | C22H22ClN5O3
